US09126998B2
rac-N-(2-Amino-2,4-dimethylpentyl)-2,6-dimethyl-8-[4,4,4-trifluoro-3-(trifluoromethyl)butoxy]-imidazo[1,2-a]pyridine-3-carboxamide
31 mg (0.08 mmol) of 2,6-dimethyl-8-[4,4,4-trifluoro-3-(trifluoromethyl)butoxy]imidazo[1,2-a]-pyridine-3-carboxylic acid Example 259A, dissolved in 0.3 ml of DMF, 40 mg (0.104 mmol) of HATU, dissolved in 0.3 ml of DMF, and then 16 mg (0.16 mmol) of 4-methylmorpholine were added to 10 mg (0.08 mmol) of rac-2,4-dimethylpentane-1,2-diamine. The mixture was shaken at RT overnight. The target compound was concentrated by preparative HPLC (Method 12). This gave 10 mg (25% of theory).

reactant | 2,6-dimethyl-8-[4,4,4-trifluoro-3-(trifluoromethyl)butoxy]imidazo[1,2-a]-pyridine-3-carboxylic acid | 0.08 mmol, 31 mg | CC=1N=C2N(C=C(C=C2OCCC(C(F)(F)F)C(F)(F)F)C)C1C(=O)O | C15H14F6N2O3
reactant | HATU | 0.104 mmol, 40 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.16 mmol, 16 mg | CN1CCOCC1 | C5H11NO
reactant | rac-2,4-dimethylpentane-1,2-diamine | 0.08 mmol, 10 mg | CC(CN)(CC(C)C)N | C7H18N2
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | rac-N-(2-Amino-2,4-dimethylpentyl)-2,6-dimethyl-8-[4,4,4-trifluoro-3-(trifluoromethyl)butoxy]-imidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCCC(C(F)(F)F)C(F)(F)F)C)C)(CC(C)C)C | C22H30F6N4O2
